US04672059
2-Deoxy-2-[[[[[6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]thioxomethyl]methylamino]acetyl]amino]-D-glucose
N-[[5-(Trifluoromethyl)-6-methoxy-1-naphthalenyl]thioxomethyl]-N-methylglycine (3.57 g, 0.010 mol), 1-hydroxybenzotriazole (2 g, 0.015 mol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.3 g, 0.012 mol) and triethylamine (3.5 mol, 0.025 mol) were dissolved in dimethylformamide (25 ml). The mixture was cooled in ice and stirred for 1 hour. D-Glucosamine hydrochloride (2.38 g, 0.011 mol), and additional triethylamine (2.0 mol) were added to the cold reaction mixture. The reaction mixture was stirred at 0° C. for 1 hour, and at room temperature over night and evaporated. The residue was triturated with water and filtered. The solids were washed with H2O, 1NHCl, 5% NaHCO3, H2O and crystallized from 8/5 H2O/MeOH to yield 3.63 g, 67.7%. The product was further purified by recrystallization from boiling methanol (3.1 g), m.p. 166°-169° C. (dec.) as yellow crystals.

reactant | N-[[5-(Trifluoromethyl)-6-methoxy-1-naphthalenyl]thioxomethyl]-N-methylglycine | 0.010 mol, 3.57 g | FC(C1=C2C=CC=C(C2=CC=C1OC)C(N(CC(=O)O)C)=S)(F)F | C16H14F3NO3S
reactant | 1-hydroxybenzotriazole | 0.015 mol, 2 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.012 mol, 2.3 g | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 3.5 mol | C(C)N(CC)CC | C6H15N
reactant | D-Glucosamine hydrochloride | 0.011 mol, 2.38 g | Cl.OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO
reactant | triethylamine | 2.0 mol | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2-Deoxy-2-[[[[[6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]thioxomethyl]methylamino]acetyl]amino]-D-glucose | COC=1C(=C2C=CC=C(C2=CC1)C(=S)N(C)CC(=O)N[C@@H](C=O)[C@@H](O)[C@H](O)[C@H](O)CO)C(F)(F)F | C22H25F3N2O7S
